US07276612B2
A solution of methyl 4-(2-tert-butoxycarbonylaminoethylsulfanyl)benzoate (1.00 g, 3.21 mmol) in dichloromethane (8 ml) was treated with a solution of HCl in dioxane (4M, 8 ml, 10 eq.) at room temperature for 3 h. Ether (100 ml) was added and the mixture was filtered, washed with ether and pumped dry to give methyl 4-(2-aminoethylsulfanyl)benzoate hydrochloride.

reactant | methyl 4-(2-tert-butoxycarbonylaminoethylsulfanyl)benzoate | 3.21 mmol, 1.00 g | C(C)(C)(C)OC(=O)NCCSC1=CC=C(C(=O)OC)C=C1 | C15H21NO4S
reactant | HCl | Cl | ClH
reactant | dioxane | 4M, 8 ml, 10 eq. | O1CCOCC1 | C4H8O2
reactant | Ether | 100 ml | CCOCC | C4H10O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | methyl 4-(2-aminoethylsulfanyl)benzoate hydrochloride | Cl.NCCSC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C10H13NO2S.ClH/c1-13-10(12)8-2-4-9(5-3-8)14-7-6-11;/h2-5H,6-7,11H2,1H3;1H
